US07335658B2
Synthesis of 6-[4-(2-TRIFLUOROMETHYLBENZYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
A mixture of 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide (0.255 mmol), 2-trifluoromethylbenzyl chloride (0.255 mmol), and 1,8-diazabicylco[5.4.0]undec-7-ene (0.77 mmol) was stirred and heated at 60° C. overnight. The reaction mixture was ten diluted with EtOAc (100 mL) and washed with aqueous saturated NaHCO3 (2×20 mL) and brine (2×20 mL). The organic layer was dried over anhydrous Na2SO4, concentrated, and purified by flash chromatography to give the title compound as a white solid (80 mg, 72% yield). 1H NMR (500 MHz, CDCl3) δ 8.00, 7.86, 7.82, 7.65, 7.55, 7.37, 6.95, 3.74-3.79, 3.73, 3.46-3.52, 2.62, 1.65-1.76, 1.52, 0.94. MS (ES+) m/z 436 (M+1).

reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | 0.255 mmol | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
reactant | 2-trifluoromethylbenzyl chloride | 0.255 mmol | FC(C1=C(CCl)C=CC=C1)(F)F | C8H6ClF3
reactant | 1,8-diazabicylco[5.4.0]undec-7-ene | 0.77 mmol | N12CCCCCC2=NCCC1 | C9H16N2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 6-[4-(2-TRIFLUOROMETHYLBENZYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | 80 mg, 72% yield | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)CC1=C(C=CC=C1)C(F)(F)F)C | C22H28F3N5O
